US06552022B1
[4-(4-Benzyl-piperazine-1-yl)-phenyl]-carbamic Acid tert-butyl Ester
To a solution of 4-(4-benzyl-piperazine-1-yl)-phenylamine (32 g) in CH2Cl2 (500 mL) containing Et3N (18.4 mL) was added dropwise di-tert-butyl dicarbonate (28.8 g) at 0° C. After 20 hours at room temperature, the solution was washed with water, with a saturated solution of NaHCO3 and brine. The organic phase was dried over Na2SO4, filtered and evaporated under reduced pressure to give the title compound (43.5 g) as a solid.

reactant | 4-(4-benzyl-piperazine-1-yl)-phenylamine | 32 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)N | C17H21N3
reactant | Et3N | 18.4 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 28.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | [4-(4-Benzyl-piperazine-1-yl)-phenyl]-carbamic Acid tert-butyl Ester | 43.5 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)=O | C22H29N3O2
